US04547506
A mixture of 1,3-diaminopropane (17.6 ml), 2,5-dibromopyridine (10 g) and pyridine (5 ml) was heated under reflux for 4 hr. After stripping off the excess of 1,3-diaminopropane, the residue was taken up in water, the pH adjusted to 7 (conc. hydrochloric acid) and the solution extracted with chloroform. The pH was raised to 14 and extracted with chloroform. After drying (K2CO3), the final extract was evaporated to give 2-(3-aminopropylamino)-5-bromopyridine (9.1 g) as an oil which was used without further purification. (ii) To a suspension of sodium hydride (0.3 g) in DMSO (20 ml) was added 2-(3-aminopropylamino)-5-bromopyridine (2.88 g). The mixture was stirred and heated slowly to 85° C. After the evolution of hydrogen had ceased the mixture was cooled to room temperature and methyl iodide (1.77 g) in DMSO (5 ml) added dropwise maintaining the temperature below 30° C. After a further 15 min water (150 ml) was added and the mixture extracted with chloroform. The chloroform extract was washed with water and extracted with 1N hydrochloric acid. The acid extract was washed with chloroform, the pH adjusted to 13 (2N NaOH) and extracted again with chloroform. The final extract was stripped and the residue chromatographed (silica gel, 5% ammoniacal methanol/dichloromethane) to give 2-[N-(3-aminopropyl)-N-methylamino]-5-bromopyridine (1.44 g) as an oil which was used without further purification. (iii) 2-[N-(3-aminopropyl)-N-methylamino]-5-bromopyridine (1.4 g) and 2-nitroamino-5-(6-methylpyrid-3-ylmethyl)pyrimid-4-one (1.25 g) were heated together under reflux in pyridine (10 ml) for 20 hr. After stripping, the residue was triturated with wet ether and recrystallised from isopropanol/water to give 2-[3-[N-methyl-N-(5-bromopyrimid-2-yl)amino]propylamino]-5-(6-methylpyrid-3-yl-methyl)pyrimid-4-one, 1.5 g (71%) mp 137°-40° C.

reactant | 1,3-diaminopropane | 17.6 ml | NCCCN | C3H10N2
reactant | 2,5-dibromopyridine | 10 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-(3-aminopropylamino)-5-bromopyridine | 9.1 g | NCCCNC1=NC=C(C=C1)Br | C8H12BrN3
